US04105670
In the method of the Reference Example 1, 5-methylanthranilic acid was reacted in the place of anthranilic acid to obtain α-[(2-carboxy-4-methylphenyl)amino]-γ-butyrolactone, melting point: 199°-200° C.

reactant | 5-methylanthranilic acid | CC1=CC=C(C(C(=O)O)=C1)N | C8H9NO2
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
product | α-[(2-carboxy-4-methylphenyl)amino]-γ-butyrolactone | C(=O)(O)C1=C(C=CC(=C1)C)NC1C(=O)OCC1 | C12H13NO4
